US08084448B2
B. 3-((E)-2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-vinyl)-pyrrolidine-1-carboxylic Acid Tert-butyl Ester
The title compound is prepared from 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one and 3-vinylpyrrolidine-1-carboxylic acid tert-butyl ester analogous to Example 62, step B.

reactant | 5-(2-benzyloxy-4-iodophenyl)-1,1-dioxo-2-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-3-one | C(C1=CC=CC=C1)OC1=C(C=CC(=C1)I)N1CC(N(S1(=O)=O)CC[Si](C)(C)C)=O | C20H25IN2O4SSi
reactant | 3-vinylpyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C=C | C11H19NO2
product | 3-((E)-2-{3-Benzyloxy-4-[1,1,4-trioxo-5-(2-trimethylsilanylethyl)-1,2,5-thiadiazolidin-2-yl]-phenyl}-vinyl)-pyrrolidine-1-carboxylic Acid Tert-butyl Ester | C(C)(C)(C)OC(=O)N1CC(CC1)\C=C\C1=CC(=C(C=C1)N1S(N(C(C1)=O)CC[Si](C)(C)C)(=O)=O)OCC1=CC=CC=C1 | C31H43N3O6SSi
